US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(8-methoxy-6-(methylamino)purin-9-yl)phenyl]urea (Table 2, Compound No. 21)
The title compound can be prepared from 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-[4-(8-iodo-6-(methylamino)purin-9-yl)phenyl]urea and methanol by using the same technique as in Example 136.

reactant | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-[4-(8-iodo-6-(methylamino)purin-9-yl)phenyl]urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1I)NC)C(F)(F)F | C20H14ClF3IN7O
reactant | methanol | CO | CH4O
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(8-methoxy-6-(methylamino)purin-9-yl)phenyl]urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1OC)NC)C(F)(F)F | C21H17ClF3N7O2
